datasets/10k_Mayr_OG.csv
SMILES Labelled
"CCCC/[C:10](=[C:11](/[O-:12])[O:61]CC)[C:72](=[O:73])[O:83]CC.CCC[C:20](C)=[O:21]>>CCCC[C:10]([C:11](=[O:12])[O:61]CC)([C:20](C)(CCC)[O-:21])[C:72](=[O:73])[O:83]CC 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C(C2=CN(C[C@@H]3CCC[NH:10]3)N=N2)C=C1.CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1>>CC1=CC=C([S:32]([N-:21][CH:20]([NH+:10]2CCC[C@H]2CN2C=C(C3=CC=CC=C3)N=N2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10=20;20,21=21"
C1CC[N:72]([C:61]([S-:10])=[S:62])C1.CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1>>CC1=CC(C)=C(C(C)C[CH:20]([S:10][C:61](=[S:62])[N:72]2CCCC2)[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1 10=20
"Br[Zn-:11](Br)[CH:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2.[CH+:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>Br[Zn:11]Br.[CH:10]1([CH:20]2[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2 10,11=10,20"
"C[Sn:63](C)(C)[CH:62]1C2=C(C=CC=C2)[CH:10]=[CH:11]1.[O-][N+:22]([C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)=[O:23]>>C[Sn:63](C)(C)[CH:62]1C2=C(C=CC=C2)[CH:10]([CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[N:33][C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)[CH+:11]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]=[CH:11][O-:12])C=C1.CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25]>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([CH:10]([CH:11]=[O:12])[P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([C:10]#[C:11][N:12]2CCC[C:63]2=[O:64])C=C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10](C2=CC=CC=C2)=[C:11]=[N+:12]2CCC[C:63]2=[O:64])[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC1(C)C[C:11]([O-:12])=[N:10][C:61](=[O:62])C1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[C:11](=[O:12])CC(C)(C)C[C:61]2=[O:62])[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(C2C3[CH:20](C4=CC=CC=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.[NH2:10][NH:61][CH:62]=[O:63]>>C1=CC=C(C2C([CH:20](C3=CC=CC=C3)[NH2+:10][NH:61][CH:62]=[O:63])[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 10=20;20,21=21"
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.N#CC1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>N#CC1=CC=C([S:61]([CH:10](Cl)[CH:20](C2=CC=CC=C2)[CH:21]=[C:22]=[N-:23])(=[O:62])=[O:72])C=C1 10=20;20,21=21,22;22,23=23"
[C-:10]([C:81]#[N:82])([C:91]([C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:92])[C:101]1=[CH:102][CH:103]=[CH:104][CH:113]=[CH:112]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2:20][C:10]([C:81]#[N:82])([C:91]([C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:92])[C:101]1=[CH:102][CH:103]=[CH:104][CH:113]=[CH:112]1)[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10=20
"C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[N-:10]=[N+:11]=[N-:12]>>C[C:22]1=[C:21]([CH:20]([N-:10][N+:11]#[N:12])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:21]1=[CH:20]CC[C:22]1=[O:23].C[N:10](C)[NH:61]C>>C[N+:10](C)([CH:20]1CC[C:22]([O-:23])=[C:21]1C)[NH:61]C 10=20;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CC1=CC=[C:10]([CH:20]([C:21]2=[C:22](C)[N:23](C)C3=C2C=CC=C3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)S1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N:65](C)[C:64]1=[CH:63][CH:62]=[N+:61](/[CH:10]=[C:11](/C2=CC=CC=C2)[O-:12])[CH:72]=[CH:73]1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[N:65](C)[C:64]1=[CH:63][CH:62]=[N+:61]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[C:20]([C:31]2=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:72]=[CH:73]1 10,11=10,20;12=11,12"
